US07629346B2
5-Bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid
To a solution of 0.81 g 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid methyl ester in 10 ml tetrahydrofuran was added at room temperature 2.6 ml of a 1M solution of lithium hydroxide in water and the mixture was stirred for 15 minutes. The resulting solution was partitioned between 10% aqueous citric acid and ethyl acetate. The phases were separated and the organic layer washed with water and brine. The organic phase was dried over magnesium sulfate and evaporated to yield 0.78 g of the title compound as white crystals. MS (ISP) (M+H+)=297.2 and 299.0.

reactant | 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid methyl ester | 0.81 g | COC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)F | C12H8BrFN2O2
reactant | lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-Bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid | 0.78 g | BrC=1N=CC(=NC1C1=CC=C(C=C1)F)C(=O)O | C11H6BrFN2O2
